US06329370B1
3-Bromo-6-methoxy-3H-isobenzofuran-1-one
6-Methoxy-3H-isobenzofuran-1-one (35.28 g, 0.215 mole), prepared as described in example 34, suspended in CCl4 (350 ml) under N2 was added with N-bromosuccinimide (40 g, 0.225 mole) and benzyl peroxide in catalytic amount, then slowly brought to reflux. After 2.5 hours the heating was stopped and the mixture was left to stand overnight at room temperature. Further catalyst was added and the mixture was heated for further 3.5 hours. The mixture was cooled in ice, filtered over celite washing well with CCl4 and dried to give 41 g of the title compound (yield: 78%).

reactant | 6-Methoxy-3H-isobenzofuran-1-one | 0.215 mole, 35.28 g | COC1=CC=C2COC(C2=C1)=O | C9H8O3
reactant | N-bromosuccinimide | 0.225 mole, 40 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzyl peroxide | C(C1=CC=CC=C1)OOCC1=CC=CC=C1 | C14H14O2
solvent | CCl4 | 350 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Bromo-6-methoxy-3H-isobenzofuran-1-one | 41 g, yield: 78% | BrC1OC(C2=CC(=CC=C12)OC)=O | C9H7BrO3
